US06727264B1
N-(3-{1-[4-(4-BROMOPHENYL)-4-OXOBUTYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure K and Scheme B1 using 1-(4-bromophenyl)-4-chloro-1-butanone and N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 457.1 (M+H)+.

reactant | 1-(4-bromophenyl)-4-chloro-1-butanone | BrC1=CC=C(C=C1)C(CCCCl)=O | C10H10BrClO
reactant | N-[3-(4-piperidinyl)phenyl]propanamide | N1CCC(CC1)C=1C=C(C=CC1)NC(CC)=O | C14H20N2O
product | N-(3-{1-[4-(4-BROMOPHENYL)-4-OXOBUTYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | BrC1=CC=C(C=C1)C(CCCN1CCC(CC1)C=1C=C(C=CC1)NC(CC)=O)=O | C24H29BrN2O2
